US04436748
A mixture of 200 mg of 3-(4-chlorophenyl)-6,7-dichloro-5-methoxybenzo[b]thiophene and 1.77 g of pyridine hydrochloride is stirred and heated at 195°-205° for two and one half hours. The reaction is cooled and 20 ml of water is added. The resulting solid is collected on a filter and washed with 1 N hydrochloric acid. The product is chromatographed on a silica gel-hexane column using 3:1 hexane/ether as elutent. The product is isolated and recrystallized from acetone-hexane to give 150 mg of 6,7-dichloro-3-(4-chlorophenyl)-5-hydroxybenzo[b]thiophene as a white powder, mp 174°-176°.

reactant | 3-(4-chlorophenyl)-6,7-dichloro-5-methoxybenzo[b]thiophene | 200 mg | ClC1=CC=C(C=C1)C=1C2=C(SC1)C(=C(C(=C2)OC)Cl)Cl | C15H9Cl3OS
reactant | pyridine hydrochloride | 1.77 g | Cl.N1=CC=CC=C1
solvent | water | 20 ml | O | H2O
product | 6,7-dichloro-3-(4-chlorophenyl)-5-hydroxybenzo[b]thiophene | 150 mg | ClC=1C(=CC2=C(SC=C2C2=CC=C(C=C2)Cl)C1Cl)O | C14H7Cl3OS
